US04455422
2.5 Grams of 6-(1-oxo-2-piperazinylbutyl)-3,4-dihydrocarbostyril was mixed in 80 ml of methanol and 1.6 g of sodium borohydride was added gradually under stirring at a room temperature in 15 minutes and further stirred at a room temperature for 2 hours. To the reaction mixture was added 5 ml of concentrated hydrochloric acid and the reaction mixture was concentrated under a reduced pressure to dryness. The residue thus obtained was dissolved by adding 10 ml of water and the pH of the solution was adjusted to 6-7 by adding 2N-sodium hydroxide aqueous solution at a room temperature and stirred to precipitate crystals. The crystals were collected by filtration washed with water and dried to obtain 1.2 g of 6-(1-hydroxy-2-piperazinylbutyl)-3,4-dihydrocarbostyril in colorless powder.

reactant | 6-(1-oxo-2-piperazinylbutyl)-3,4-dihydrocarbostyril | O=C(C(CC)N1CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C17H23N3O2
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-(1-hydroxy-2-piperazinylbutyl)-3,4-dihydrocarbostyril | 1.2 g | OC(C(CC)N1CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C17H25N3O2
